US06599917B1
b) 1-Methoxy-3-phenylacetone
20.4 ml of a Jone's reagent was slowly added dropwise into 200 ml of an acetone solution containing 5.1 g of 1-methoxy-3-phenyl-2-propanol. After stirring for 30 minutes at room temperature, 30 ml of 2-propanol was slowly added to the reaction solution. After removing the solvent, water was added thereto and the mixture was extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed. The residue was subjected to silica gel column chromatography and elute with hexane/ethyl acetate (6:1), to give 3.7 g of the target compound.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | 1-methoxy-3-phenyl-2-propanol | 5.1 g | COCC(CC1=CC=CC=C1)O | C10H14O2
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | 1-Methoxy-3-phenylacetone | 3.7 g | COCC(=O)CC1=CC=CC=C1 | C10H12O2
